US08211904B2
Step 2: 3,3-dimethyl-6-[(4-methylphenyl)sulfonyl]-6-aza-3-silabicyclo[3.1.0]hexane
To a solution of 1,1-dimethyl-2,5-dihydro-1H-silole (3.0 g, 26.7 mmol) in acetonitrile (50 mL) was added phenyltrimethylammonium tribromide (1.0 g, 2.67 mmol) and chloramine-T (6.69 g, 29.4 mmol). After stirring at rt overnight the reaction mixture was filtered though a pad of Celite and concentrated under vacuum. Purification by silica gel chromatography (20% EtOAc/hexanes) afforded the desired product.

reactant | 1,1-dimethyl-2,5-dihydro-1H-silole | 26.7 mmol, 3.0 g | C[Si]1(CC=CC1)C | C6H12Si
reactant | phenyltrimethylammonium tribromide | 2.67 mmol, 1.0 g | [Br-].[Br-].[Br-].C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C.C1(=CC=CC=C1)[N+](C)(C)C
reactant | chloramine-T | 29.4 mmol, 6.69 g | CC=1C=CC(=CC1)S(=O)(=O)NCl | C7H8ClNO2S
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 3,3-dimethyl-6-[(4-methylphenyl)sulfonyl]-6-aza-3-silabicyclo[3.1.0]hexane | C[Si]1(CC2N(C2C1)S(=O)(=O)C1=CC=C(C=C1)C)C | C13H19NO2SSi
